US04948794
A mixture of 1.0 g (4,5 mmol) 1-carboxymethylquinoxaline-2,3(1H,4H)-dione, 15 ml dry methanol and 0,2 ml concentrated sulfuric acid was stirred at 80° C. for 1 h. After cooling to 25° C. the reaction mixture was poured in water and made alkaline. The precipitate was filtered off and recrystallized (acetone) to give 0.22 g (21%) 1-methoxycarbonylmethylquinoxaline-2,3(1H,4H)-dione. M.p. 269° C. 1H-NMR (DMSO-d6 ): 12.0 (1H, broad s), 7.1 (4H, s), 4.9 (2H, s), 3.7 (3H, s).

reactant | 1-carboxymethylquinoxaline-2,3(1H,4H)-dione | 4,5 mmol, 1.0 g | C(=O)(O)CN1C(C(NC2=CC=CC=C12)=O)=O | C10H8N2O4
reactant | methanol | 15 ml | CO | CH4O
reactant | sulfuric acid | 0,2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-methoxycarbonylmethylquinoxaline-2,3(1H,4H)-dione | 0.22 g, 21% | COC(=O)CN1C(C(NC2=CC=CC=C12)=O)=O | C11H10N2O4
